US06384061B1
8-1) Synthesis of methyl 3-imidazol-1-yl-propionate
5.0 g(73.4 mmol) of imidazole and 12.6 g(148.6 mmol) of methyl acrylate were dissolved in 100 ml of acetonitrile, and then refluxed for 8 hours. Acetonitrile and the excess methyl acrylate was removed under reduced pressure. Then, 200 ml of ethyl acetate was added to the residue and the solution thus obtained was washed with saturated sodium chloride solution. Removal of ethyl acetate under reduced pressure provided 11.1 g(Yield: 90%) of the title compound.

reactant | imidazole | 73.4 mmol, 5.0 g | N1C=NC=C1 | C3H4N2
reactant | methyl acrylate | 148.6 mmol, 12.6 g | C(C=C)(=O)OC | C4H6O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl 3-imidazol-1-yl-propionate | 11.1 g, Yield: 90% | N1(C=NC=C1)CCC(=O)OC | C7H10N2O2
